US04492792
In a 50 ml four-necked flask equipped with a calciumchloride tube, a thermometer and a reflux condenser, there were placed 11.6 g (60 mmoles) of a 28 wt. % solution of sodium methylate in methanol and 10 ml of methanol. Thereto was added with stirring 5.67 g of acetamidine hydrochloride (60 mmoles) and the mixture was stirred at room temperature for 30 minutes. Then, 7.85 g (50 mmoles) of 2-methoxymethylene-3,3-dimethoxypropanenitrile was added thereto and the mixture was heated and refluxed for 5 hours. After completion of the reaction, the reaction mixture was cooled and then the insoluble sodium chloride was removed by filtration. After concentration of the solvent, methanol, 50 ml of water was added thereto and the mixture was extracted four times with 20 ml of methylene chloride. After the extract was dried over sodium sulfate, the sodium sulfate was removed by filtration and the filtrate was concentrated to dryness to obtain a white crude crystal. The thus obtained product was recrystallized from a mixed solvent of 50 ml of hexane and 25 ml of toluene to obtain 8.05 g (yield: 88%) of 2-methyl-4-amino-5-dimethoxymethylpyrimidine melting at 102°-104° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | acetamidine hydrochloride | 60 mmoles, 5.67 g | Cl.C(C)(=N)N
reactant | 2-methoxymethylene-3,3-dimethoxypropanenitrile | 50 mmoles, 7.85 g | COC=C(C#N)C(OC)OC | C7H11NO3
solvent | methanol | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 2-methyl-4-amino-5-dimethoxymethylpyrimidine | 8.05 g, yield: 88% | CC1=NC=C(C(=N1)N)C(OC)OC | C8H13N3O2
